US05068328
The cyclization reaction of o-diaminobenzene (compound II) in an aqueous solution of glyoxal and sodium hydrogen sulfite gives quinoxaline (compound III; See R. G. Jones et al., Org. Syn. Collective Vol. IV, page 824). Quinoxaline is in turn oxidized by an aqueous solution of potassium permanganate to produce 2,3-pyrazinedicarboxylic acid (compound IV; See R. G. Jones et al., Org. Syn. Collective Vol. IV, page 824). 2,3-pyrazinedicarboxylic acid is then chlorinated with phosphorus pentachloride at 300° C. to produce 2,3,5,6-tetrachloropyrazine (compound V; See C. G. Allison et al., J. Chem. Soc. (C), 1970, page 1023). The reaction of 2,3,5,6-tetrachloropyrazine with ammonium chloride at a temperature of 120° C. gives 2,3-diamino-5,6-dichloropyrazine (compound VI; See Palamidess et al., Ed. Sc. XXI-fasc, 11, 1966, page 810). The cyclization reaction of 2,3-diamino-5,6-dichloropyrazine with thionyl chloride in the presence of pyridine in xylene produces 5,6-dichloro-[1,2,5]thiadiazolo[3,4-b]pyrazine (compound VII; See Y. C. Tong, J. Heterocyclic Chem., 12, 1975, page 451 ) The 5,6-dichloro-[1,2,5]thiadiazolo[3,4-b]pyrazine is reacted with potassium phthalimide in the presence of dimethyl formamide (DMF) at a temperature of 60° C. to produce 5,6-diphtalimido-[1,2,5]thiadiazolo[3,4-b]pyrazine (compound VIII; See Example 1). The 5,6-diphthalimido-[1,2,5]thiadiazolo[3,4-b]pyrazine is then reacted with an aqueous solution of hydrazine at 0° C. to produce 5,6-diamino-[1,2,5]thiadiazolo[3,4-b]pyrazine (compound IX; See Example 2). Finally the cyclization reaction of 5,6-diamino[1,2,5]thiadiazolo[3,4-b]pyrazine with thionyl chloride in the presence of pyridine in methylene chloride gives bis[1,2,5]thiadiazolo[3,4-b: 3',4'-e]pyrazine (compound I; See Example 3).

reactant | 2,3-diamino-5,6-dichloropyrazine | NC1=NC(=C(N=C1N)Cl)Cl | C4H4Cl2N4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-dichloro-[1,2,5]thiadiazolo[3,4-b]pyrazine | ClC1=NC=2C(N=C1Cl)=NSN2 | C4Cl2N4S
